US09085575B2
69 mg (3 mmol) of sodium is added at room temperature in small portions to 0.4 ml of methanol. After the sodium disappears, 870 mg (2 mmol) of ethyl 5-cyano-2-(4-methoxyphenyl)-4-(2-nitrophenyl)-6-thioxo-1,6-dihydropyridine-3-carboxylate is added. The reaction mixture is stirred for 5 minutes, and then 0.18 ml (3 mmol) of methyl iodide is added and stirring is continued for 3 hours. The solvent is concentrated and the precipitate formed is filtered, rinsed with water and then diethyl ether and then dried under vacuum to yield 0.53 g (59%) of ethyl 5-cyano-2-(4-methoxyphenyl)-6-(methylthio)-4-(2-nitrophenyl)nicotinate in the form of a yellow powder.

reactant | sodium | 3 mmol, 69 mg | [Na] | Na
reactant | ethyl 5-cyano-2-(4-methoxyphenyl)-4-(2-nitrophenyl)-6-thioxo-1,6-dihydropyridine-3-carboxylate | 2 mmol, 870 mg | C(#N)C1=C(C(=C(NC1=S)C1=CC=C(C=C1)OC)C(=O)OCC)C1=C(C=CC=C1)[N+](=O)[O-] | C22H17N3O5S
reactant | methyl iodide | 3 mmol, 0.18 ml | CI | CH3I
solvent | methanol | 0.4 ml | CO | CH4O
product | ethyl 5-cyano-2-(4-methoxyphenyl)-6-(methylthio)-4-(2-nitrophenyl)nicotinate | 0.53 g, 59% | C(#N)C=1C(=NC(=C(C(=O)OCC)C1C1=C(C=CC=C1)[N+](=O)[O-])C1=CC=C(C=C1)OC)SC | C23H19N3O5S
